US08114902B2
4-bromo-2-chlorophenylacetic acid
To 4-bromo-2-chlorobenzyl cyanide (383 g) of Reference Example 14 were added water (908 mL), ethanol (6812 mL) and 85% aqueous potassium hydroxide solution (549 g), and the mixture was stirred at an inside temperature of 75° C. for 13 hr. The mixture was concentrated, and diisopropyl ether (4500 mL) and water were added. The aqueous layer was neutralized with 1M hydrochloric acid, and partitioned and extracted with ethyl acetate. The organic layer was washed with 25% brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residual crude crystals were recrystallized from a mixed solvent of diisopropyl ether and hexane to give the title compound (240 g) as pale-yellow crystals.

reactant | 4-bromo-2-chlorobenzyl cyanide | 383 g | BrC1=CC(=C(CC#N)C=C1)Cl | C8H5BrClN
reactant | water | 908 mL | O | H2O
reactant | potassium hydroxide | 549 g | [OH-].[K+]
solvent | ethanol | 6812 mL | C(C)O | C2H6O
product | 4-bromo-2-chlorophenylacetic acid | 240 g | BrC1=CC(=C(C=C1)CC(=O)O)Cl | C8H6BrClO2
